US07601844B2
1-((R)-1-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-3-methyl-1-oxobutan-2-yl)-3-methylurea
A reaction tube was charged with methyl isocyanate (3 μL), (R)-2-amino-1-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-3-methylbutan-1-one hydrochloride (20 mg) and THF (2 mL). Triethylamine (7.4 μL) was added and the reaction mixture was shaken overnight at rt. After this time, the resulting solution concentrated and purified by preparative silica gel chromatography (100% EtOAc to 20% MeOH/CH2Cl2) to provide Example 510. MS found: (M+H)+=396.3.

reactant | methyl isocyanate | 3 μL | CN=C=O | C2H3NO
reactant | (R)-2-amino-1-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-3-methylbutan-1-one hydrochloride | 20 mg | Cl.N[C@@H](C(=O)N1CC([C@@](CC1)(O)C1=CC=C(C=C1)Cl)(C)C)C(C)C
reactant | THF | 2 mL | C1CCOC1 | C4H8O
solvent | Triethylamine | 7.4 μL | C(C)N(CC)CC | C6H15N
product | 1-((R)-1-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-3-methyl-1-oxobutan-2-yl)-3-methylurea | ClC1=CC=C(C=C1)[C@@]1(C(CN(CC1)C([C@@H](C(C)C)NC(=O)NC)=O)(C)C)O | C20H30ClN3O3
